US04146630
2-Methyl-3-amino-5-tert.-butylphenyl benzyl ether
This is obtained, by reducing 2-methyl-3-nitro-5-tert.-butylphenyl benzyl ether with hydrazine hydrate and Raney nickel in methanol, in the form of a pale brown oil.

reactant | 2-methyl-3-nitro-5-tert.-butylphenyl benzyl ether | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])C | C18H21NO3
reactant | hydrazine hydrate | O.NN
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 2-Methyl-3-amino-5-tert.-butylphenyl benzyl ether | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)C(C)(C)C)N)C | C18H23NO
